US07176224B2
2-(4-Bromophenyl)-5-methyl-4-oxazoleethanol (10.0 g, 35.0 mmol) (see Ex. 1, Part G) and 2-thiophenyl boronic acid (38.0 mmol) were dissolved in n-propanol (120 ml) before adding triphenylphosphine (165.2 mg, 0.63 mmol), palladium acetate (46 mg, 2.1 mmol), and Na2CO3 (4.5 g, 42 mmol dissolved in 30 mL distilled H2O). The solution was heated to reflux and stirred for 1.5 h. After cooling to ambient temperature, the mixture was concentrated under reduced pressure and then partitioned between CH2Cl2 (100 mL) and 1N NaOH (100 mL). The aqueous phase was extracted with CH2Cl2 (2×50 mL) and the combined organic phases were dried (MgSO4) and concentrated under reduced pressure to provide 2-(4-thiophen-2-yl-phenyl)-5-methyl-4-oxazoleethanol.

reactant | 2-(4-Bromophenyl)-5-methyl-4-oxazoleethanol | 35.0 mmol, 10.0 g | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCO)C | C12H12BrNO2
reactant | 2-thiophenyl boronic acid | 38.0 mmol | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | triphenylphosphine | 0.63 mmol, 165.2 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Na2CO3 | 42 mmol, 30 mL, 4.5 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | n-propanol | 120 ml | C(CC)O | C3H8O
catalyst | palladium acetate | 2.1 mmol, 46 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(4-thiophen-2-yl-phenyl)-5-methyl-4-oxazoleethanol | S1C(=CC=C1)C1=CC=C(C=C1)C=1OC(=C(N1)CCO)C | C16H15NO2S
